US06348624B1
3-Chloro-2,4-difluoro-bromobenzene
To a solution of 19 ml (0.135 mole) of diisopropylarnine in 125 ml of tetrahydroflran (TBF) cooled at −20° C. is added 80 ml of n-butyllithium (1.6 M in hexane). The temperature is raised to 0° C. for 5 minutes and lowered to −78° C. Then 25 g (0.129 mole) of 2,4-difluoro-bromobenzene is then added and the reaction is stirred at −65° C. for 2 hours. Then, 25 ml (0.164 mole) of hexachloroacetone is added and the solution is warmed at room temperature. After evaporation of the solvent, the residue is distilled under vacuum to give the desired product.

reactant | diisopropylarnine | 0.135 mole, 19 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2,4-difluoro-bromobenzene | 0.129 mole, 25 g | FC1=C(C=CC(=C1)F)Br | C6H3BrF2
reactant | hexachloroacetone | 0.164 mole, 25 ml | ClC(C(=O)C(Cl)(Cl)Cl)(Cl)Cl | C3Cl6O
solvent | n-butyllithium | 1.6 M, 80 ml | C(CCC)[Li]
product | 3-Chloro-2,4-difluoro-bromobenzene | ClC=1C(=C(C=CC1F)Br)F | C6H2BrClF2
